US08110681B2
A mixture of ethyl 5-amino-2-methylbenzoate (14.4 g, 80.3 mmol) in aqueous 5% sulfuric acid (300 mL) was cooled with an ice-bath for 15 min. Sodium nitrite (6.09 g, 88.3 mmol) was then added dropwise as a solution in water (50 mL), and the resulting mixture stirred for at 0° C. for 30 min. After this time, the resulting mixture was heated to 60° C. for 18 h. The reaction mixture was then cooled to room temperature and diluted with ethyl acetate (150 mL). The organic layer was separated, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica, gradient 0-40%, hexanes/ethyl acetate) afforded 12.48 g (86%) of ethyl 5-hydroxy-2-methylbenzoate as red-brown solid: 1H NMR (300 MHz, CDCl3) δ 7.44 (d, J=2.8 Hz, 1H), 7.10 (d, J=8.3 Hz, 1H), 6.91 (dd, J=8.3, 2.8 Hz, 1H), 5.44 (s, 1H), 4.35 (q, J=7.1 Hz, 2H), 2.50 (s, 3H), 1.38 (t, J=7.1 Hz, 3H); ESI MS m/z 181 [M+H]+.

reactant | ethyl 5-amino-2-methylbenzoate | 80.3 mmol, 14.4 g | NC=1C=CC(=C(C(=O)OCC)C1)C | C10H13NO2
reactant | Sodium nitrite | 88.3 mmol, 6.09 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 300 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 5-hydroxy-2-methylbenzoate | 12.48 g, 86% | OC=1C=CC(=C(C(=O)OCC)C1)C | C10H12O3
